US05032598
A solution of 4.42 g of 6-nitro-2-(1-methyl-4-piperidyl)-1-oxo-2-indanecarboxamide in 60 mL of 6N hydrochloric acid was stirred and refluxed for one hour. The solution was cooled in an ice bath and made basic by the addition of 20% aqueous sodium hydroxide. The mixture was extracted with three 100 mL portions of ether. The combined extracts were dried over magnesium sulfate, filtered, and the ether was removed under reduced pressure to give 3.72 g (97%) of 6-nitro-2-(1-methyl-4-piperdyl)-indan-1-one as a low melting crystalline solid.

reactant | 6-nitro-2-(1-methyl-4-piperidyl)-1-oxo-2-indanecarboxamide | 4.42 g | [N+](=O)([O-])C1=CC=C2CC(C(C2=C1)=O)(C(=O)N)C1CCN(CC1)C | C16H19N3O4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hydrochloric acid | 6N, 60 mL | Cl | ClH
product | 6-nitro-2-(1-methyl-4-piperdyl)-indan-1-one | 3.72 g, 97% | [N+](=O)([O-])C1=CC=C2CC(C(C2=C1)=O)C1CCN(CC1)C | C15H18N2O3
